US07964678B2
Prepare a 30% solution with 52 g NaOH at room temperature. Agitate 143 g 2,2′-dihydroxyl-1,1′-binaphthyl prepared as per the said method, 5.2 g tetrabutyl ammonium hydrosulfate and 500 ml methylbenzene, raise the temperature to 70° C. and add 164 g dimethyl sulfate dropwise simultaneously; agitate and react and conduct TLC track; when monoether point disappear, maintain the reaction for a period of time. Cool down and filter the solution; scrub the filter cake with 400 ml methylbenzene and 400 ml 5% NaOH solution successively and then scrub it with water to neutral state; dry it to obtain 2,2′-dimethoxy-1,1′-binaphthyl. The HPLC analysis results are as follows: the conversion of 2,2′-dihydroxyl-1,1′-binaphthyl ≧99%, the purity of 2,2′-dimethoxy-1,1′-binaphthyl ≧98% and the yield of 2,2′-dimethoxy-1,1′-binaphthyl ≧95%. Incorporate the methylbenzene layers and distill and recover the solid wastes. The distilled methylbenzene can be recycled.

reactant | NaOH | 52 g | [OH-].[Na+]
reactant | 2,2′-dihydroxyl-1,1′-binaphthyl | 143 g | OC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)O | C20H14O2
reactant | tetrabutyl ammonium | 5.2 g | C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | dimethyl sulfate | 164 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | methylbenzene | 500 ml | CC1=CC=CC=C1 | C7H8
product | 2,2′-dimethoxy-1,1′-binaphthyl | COC1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)OC | C22H18O2
